US06087502
To 300 ml of methylene chloride was dissolved 10 g/82 mmol of 2,6-dimethylphenol and 6.2 g/40 mmol of succinic dichloride, and the solution was cooled to 0° C. in sodium chloride-ice bath. 49 g/368 mmol of anhydrous aluminum chloride was added dropwise to the mixture with thorough stirring while maintaining the temperature to not more than 5° C. After completing the addition, the mixture was stirred at 5° C. for one hour, and at room temperature for 15 hours. The reaction mixture was then added to 50 ml of ice containing conc. hydrochloric acid to decompose excessive anhydrous aluminum chloride, and the mixture was extracted twice with methylene chloride. The organic layer was washed with saturated sodium chloride solution, and dried with anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was recrystalized from toluene to obtain 2.0 g of 1,4-bis(3',5'-dimethyl-4'-hydroxyphenyl)butane-1,4-dione. MS: 326 (M+).

reactant | 2,6-dimethylphenol | 82 mmol | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | succinic dichloride | 40 mmol | C(CCC(=O)Cl)(=O)Cl | C4H4Cl2O2
reactant | aluminum chloride | 368 mmol | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 1,4-bis(3',5'-dimethyl-4'-hydroxyphenyl)butane-1,4-dione | 2.0 g | CC=1C=C(C=C(C1O)C)C(CCC(=O)C1=CC(=C(C(=C1)C)O)C)=O | C20H22O4
